US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid as per the procedure of example 13. 1H NMR (400 MHz; DMSO-d6) δ 10.90 (s, 0.45H), 10.89 (s, 0.55H), 9.30 (brs, 0.55H), 9.12 (brs, 0.45H), 8.59 (s, 0.45H), 8.58 (s, 0.55H), 8.39 (d, 0.55H), 8.38 (d, 0.45H), 8.34 (s, 0.55H), 8.33 (s, 0.45H), 8.02–7.97 (m, 1H), 7.92 (d, 0.55H), 7.89 (d, 0.45H), 7.53 (d, 4H), 7.38 (t, 4H), 7.29 (t, 2H), 6.83 (s, 1H), 5.39 (s, 1.1H), 5.18 (s, 0.9H), 4.48 (s, 0.9H), 4.23 (q, 0.9H), 4.09 (s, 1.1H), 4.03 (q, 1.1H), 3.73 (t, 1.1H), 3.54 (t, 1.1H), 3.45 (t, 0.9H), 3.29 (t, 0.9H), 1.27 (t, 1.35H), 1.15 (t, 1.65H).

reactant | N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
reactant | [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C21H17N5O4
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester | C(C)OC(CN(C(CN1C2=NC=NC(=C2N=C1)NC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C35H31ClN10O9S2
